US07763750B2
Production of N2-[1,1-dimethyl-2-(methyl-sulfinyl)ethyl]-N1-{2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl}-1,2-benzenedicarboxamide
Sodium hydroxide (0.83 g) and sodium hydrogencarbonate (1.66 g) were dissolved in water (12 mL), followed by adding thereto 2-methyl-1-methylthio-2-propanamine (2.62 g) and chlorobenzene (12 mL), and to the resulting mixture was added dropwise phthaloyl dichloride (4 g) at 40° C. or lower. After completion of the dropwise addition, the resulting mixture was stirred at 40° C. for 30 minutes and sodium chloride (1.73 g) was added thereto. Thereafter, the organic layer was separated to prepare a solution of N-[1,1-dimethyl-2-(methylthio)ethyl]isophthalimide in chlorobenzene. The previously prepared isophthalimide solution and 15% hydrogen peroxide (4.9 g) were alternately and slowly dropped into a mixture of 2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline (5.15 g), p-toluenesulfonic acid monohydrate (0.09 g) and chlorobenzene (3 mL) at 50° C. and then stirred at 60° C. for 3 hours. An aqueous sodium sulfite solution was added dropwise to the thus obtained reaction mixture at the same temperature to decompose the excess oxidizing agent. After neutralization with an aqueous sodium hydrogencarbonate solution, the resulting mixture was slowly cooled to 20° C. The crystals precipitated were filtered, washed with water and then dried to obtain 9.06 g (yield 85%) of the title compound.

reactant | Sodium hydroxide | 0.83 g | [OH-].[Na+]
reactant | sodium hydrogencarbonate | 1.66 g | C(O)([O-])=O.[Na+]
reactant | 2-methyl-1-methylthio-2-propanamine | 2.62 g | CC(CSC)(C)N | C5H13NS
reactant | phthaloyl dichloride | 4 g | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
reactant | sodium chloride | 1.73 g | [Cl-].[Na+]
reactant | isophthalimide | C1(C2=CC(C(N1)=O)=CC=C2)=O | C8H5NO2
reactant | hydrogen peroxide | 4.9 g | OO | H2O2
reactant | 2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline | 5.15 g | CC1=C(N)C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F | C10H8F7N
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 12 mL | O | H2O
catalyst | p-toluenesulfonic acid monohydrate | 0.09 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | chlorobenzene | 3 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 12 mL | ClC1=CC=CC=C1 | C6H5Cl
product | N2-[1,1-dimethyl-2-(methyl-sulfinyl)ethyl]-N1-{2-methyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]phenyl}-1,2-benzenedicarboxamide | 9.06 g, yield 85% | CC(CS(=O)C)(C)NC(=O)C=1C(=CC=CC1)C(=O)NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)F)C | C23H23F7N2O3S
